US09079866B2
5-[3-Fluoro-2′-(piperazin-1-ylcarbonyl)biphenyl-4-yl]pyrazin-2-amine
The title compound was prepared using methods analogous to those described in Step C of Example 504 using 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid and piperazine. MS (ESI): mass calcd. for C21H20FN5O, 377.17; m/z found, 378.2 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.64-8.56 (m, 1H), 8.11 (d, J=1.5, 1H), 8.04-7.93 (m, 1H), 7.53-7.40 (m, 4H), 7.37 (dd, J=8.1, 1.8, 1H), 7.30 (dd, J=12.2, 1.7, 1H), 4.77 (s, 2H), 3.72 (d, J=25.1, 2H), 3.14 (s, 1H), 2.92 (s, 2H), 2.65 (s, 2H), 2.05 (s, 1H).

reactant | 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid | NC1=NC=C(N=C1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)O)F | C17H12FN3O2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 5-[3-Fluoro-2′-(piperazin-1-ylcarbonyl)biphenyl-4-yl]pyrazin-2-amine | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)C(=O)N1CCNCC1 | C21H20FN5O
